US06855722B2
g) 3-(3-Benzyloxy-phenyl)-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid
A solution of 3-(3-benzyloxy-phenyl)-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid ethyl ester (0.08 g, 0.14 mmol), lithium hydroxide (0.01 g, 0.22 mmol) and THF/methanol/water [2.0/1.0/0.2 mL] (3.2 mL) was microwave at 100° C. for 15 minutes. Saturated ammonium chloride was added (10 mL) and the product was extracted with ethyl acetate (3×10 mL). The crude product was purified via column chromatography eluting with dichloromethane: ethyl acetate (10:1) to give the title compound (25% yield) as white solid. 1H NMR (CDCl3) δ 10.5 (bs, 1H), 7.49 (d, 1H, J=3.0 Hz), 7.39-7.22 (m, 6H), 7.16 (m, 1H), 7.08 (m, 1H), 6.80 (m, 4H), 6.60 (dd, 1H, J=2.2, 6.8 Hz), 6.46 (m, 1H), 6.26 (d, 1H, J=7.3 Hz), 6.09 (m, 1H), 5.29 (s, 2H), 3.59 (s, 1H), 3.38 (m, 3H), 3.29-3.14 (m, 2H), 2.60-2.43 (m, 5H), 1.87 (m, 2H). Mass Spectrum (LCMS, ESI) calculated for C34H34N3O4 548.3 (M+H); found 548.4.

reactant | 3-(3-benzyloxy-phenyl)-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid ethyl ester | 0.14 mmol, 0.08 g | C(C)OC(CC(N1C=CC2=CC(=CC=C12)OCCC1=NC=2NCCCC2C=C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C36H37N3O4
reactant | lithium hydroxide | 0.22 mmol, 0.01 g | [OH-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF methanol water | 0.2 mL | C1CCOC1.CO.O
product | 3-(3-Benzyloxy-phenyl)-3-{5-[2-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-ethoxy]-indol-1-yl}-propionic acid | 25% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CC(=O)O)N1C=CC2=CC(=CC=C12)OCCC1=NC=2NCCCC2C=C1 | C34H33N3O4
